US04109088
In 250 ml. of anhydrous tetrahydrofuran was suspended 2.0 g. of lithium aluminum hydride and then a solution prepared by dissolving 8.0 g. of 4-butyl-2-(7-indenyloxymethyl)morpholin-5-one in 50 ml. of anhydrous tetrahydrofuran was added slowly to the suspension with stirring. Then, by treating the mixture in a similar manner as in Example 1, 6.4 g. (yield) of oily 4-butyl-2-(7-indenyloxymethyl)-morpholine was obtained.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-butyl-2-(7-indenyloxymethyl)morpholin-5-one | C(CCC)N1CC(OCC1=O)COC=1C=CC=C2C=CCC12 | C18H23NO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-butyl-2-(7-indenyloxymethyl)-morpholine | C(CCC)N1CC(OCC1)COC=1C=CC=C2C=CCC12 | C18H25NO2
